US07214674B2
5-(2-Bromoethoxy)-2-methylquinoline (D18)
The title compound was prepared from 5-hydroxy-2-methylquinoline and 1,2-dibromoethane using a similar procedure to Description 16, in 91% yield.

reactant | 5-hydroxy-2-methylquinoline | OC1=C2C=CC(=NC2=CC=C1)C | C10H9NO
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | 5-(2-Bromoethoxy)-2-methylquinoline | 91% yield | BrCCOC1=C2C=CC(=NC2=CC=C1)C | C12H12BrNO
